US05275950
Alternative Preparation of Diethyl (4-thiazolylmethyl)acetamidomalonate
To an oven-dried 2 liter 3-neck round bottom flask equipped with a mechanical stirrer, relux condenser and nitrogen inlet containing 500 mL of absolute ethanol was added sodium (19.8 g, 0.86 mole). This mixture was allowed to reflux until complete dissolution of the sodium metal. The resultant solution of sodium ethoxide was cooled to approximately 40° C. and diethyl acetamidomalonate (186.1 g, 0.86 mole) was added. The resultant mixture was refluxed for 30 minutes, then cooled to about 50° C. and treated with potassium iodide (2.0 g) and dimethylformamide (2 ml). A freshly prepared solution of 4-chloromethylthiazole (0.89 mole) in 200 mL of absolute ethanol was added dropwise over a period of 20 minutes and the mixture was maintained at 50° C. for 24 hours. The mixture was then cooled in an ice bath, diluted with ethyl acetate and filtered through a pad of Celite. Concentration and drying gave 265 g of the desired product as light yellow crystals. m.p. 104°-106° C.

reactant | sodium | 0.86 mole, 19.8 g | [Na] | Na
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl acetamidomalonate | 0.86 mole, 186.1 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | 4-chloromethylthiazole | 0.89 mole | ClCC=1N=CSC1 | C4H4ClNS
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | potassium iodide | 2.0 g | [I-].[K+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | Diethyl (4-thiazolylmethyl)acetamidomalonate | 265 g | S1C=NC(=C1)CCC(=O)NC(C(=O)OCC)C(=O)OCC | C13H18N2O5S
